US09359336B2
To the solution of 5-bromo-3-cyanopyridine (3.0 g, 15.9 mmol, 1 eq) in anhydrous dimethylformamide (40 mL) was added ammonium chloride (1.45 g, 1.7 eq) and sodium azide (1.76 g, 1.7 eq). The resulting reaction mixture was heated at 100° C. under nitrogen for 20 hours. After the reaction mixture was cooled to room temperature, it was poured into ice-water and the pH of the mixture was adjusted to ˜3.5 using aqueous hydrochloric acid (2 N). The aqueous was first extracted with ethyl acetate three times, followed by an extraction with i-PrOH—CHCl3 (1:4). All organics were combined and dried with anhydrous sodium sulfate. The upper clear liquor was decanted, concentrated under reduced pressure, and the resulting oily residue was placed under high vacuum for 20 hours. Upon treatment with EtOAc-Hex (1:1) and filtration, 3-bromo-5-(2H-tetrazol-5-yl)pyridine was obtained as a white solid in the amount of 3.241 g.

reactant | 5-bromo-3-cyanopyridine | 15.9 mmol, 3.0 g, 1 eq | BrC=1C=C(C=NC1)C#N | C6H3BrN2
reactant | ammonium chloride | 1.45 g, 1.7 eq | [Cl-].[NH4+]
reactant | sodium azide | 1.76 g, 1.7 eq | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-bromo-5-(2H-tetrazol-5-yl)pyridine | BrC=1C=NC=C(C1)C=1N=NNN1 | C6H4BrN5
